US07291631B2
A mixture of 3-indol-1-yl-pyridine-2-carbonitrile (164 mg, 0.75 mmol) in NH3 saturated MeOH (6 mL) was treated with Raney nickel (0.25 g), and placed under 40 psi H2 on a Parr shaker, for 4 h. The mixture was filtered through celite and the cake was washed with methanol. The eluant was concentrated under reduced pressure. Purification of the crude material by column chromatography on silica gel (CH2Cl2-MeOH, 96:4 then 9:1) provided 96 mg (57%) of C-(3-Indol-1-yl-pyridin-2-yl)-methylamine as a clear oil. 1H NMR (CDCl3) δ 1.65 (br s, 2H), 3.72 (s, 2H), 6.73 (d, 1H, J=3.3 Hz), 6.95-7.03 (m, 1H), 7.16-7.21 (m, 3H), 7.38 (dd, 1H, J=9, 6 Hz), 7.66-7.71 (m, 2H), 8.71 (d, 1H, J=4.5 Hz).

reactant | 3-indol-1-yl-pyridine-2-carbonitrile | 0.75 mmol, 164 mg | N1(C=CC2=CC=CC=C12)C=1C(=NC=CC1)C#N | C14H9N3
solvent | NH3 | 6 mL | N | H3N
catalyst | Raney nickel | 0.25 g | [Ni] | Ni
product | C-(3-Indol-1-yl-pyridin-2-yl)-methylamine | 96 mg, 57% | N1(C=CC2=CC=CC=C12)C=1C(=NC=CC1)CN | C14H13N3
